US04548948
Preparation of 5-chloro-2,3-dihydrobenzofuran-3-carboxylic acid (D3)
The title compound was prepared from 6-chloro-4-chromanone (9.0 g, 0.049 mole) and thallium trinitrate (0.074 mole) absorbed onto K10 clay (75 g) by the method of Description 1, as a yellow solid (1.51 g, 16%).

reactant | 6-chloro-4-chromanone | 0.049 mole, 9.0 g | ClC=1C=C2C(CCOC2=CC1)=O | C9H7ClO2
reactant | thallium trinitrate | 0.074 mole | [N+](=O)([O-])[O-].[N+](=O)([O-])[O-].[N+](=O)([O-])[O-].[Tl+3]
product | 5-chloro-2,3-dihydrobenzofuran-3-carboxylic acid | ClC=1C=CC2=C(C(CO2)C(=O)O)C1 | C9H7ClO3
